US04882338
To a solution of 30.8 mg of 60% NaH (0.77 mmol) in 5 ml of dry DMF was added 293.6 mg of 2-{[6-methoxy-7-(2,2,2-trifluoroethoxy)isoquinolin-1-yl]methylthio}benzimidazole (Ia-7) (0.7 mmol) and the mixture was stirred for 10 min. at room temperature. The mixture was mixed with 126.5 mg of chloromethyl pivalate, stirred for 2 hr. at room temperature and allowed to stand overnight. After DMF was distilled off in vacuo, the residue was mixed with water and extracted with CH2Cl2. The CH2Cl2 layer was dried over anhydrous sodium sulfat4e and concentrated. The residue was subjected to silica gel column chromatography, eluting with CH2Cl2 -AcOEt. Crude product was washed with cyclohexane to give 344.7 mg of the objective compound 2-{[6-methoxy-7-(2,2,2-trifluoroethoxy)isoquinolin-1-yl]methylthio}-1-pivaloyloxymethylbenzimidazole (Ib-10) (Yield: 92.3%).

reactant | NaH | 0.77 mmol, 30.8 mg | [H-].[Na+]
reactant | 2-{[6-methoxy-7-(2,2,2-trifluoroethoxy)isoquinolin-1-yl]methylthio}benzimidazole | 0.7 mmol, 293.6 mg | COC=1C=C2C=CN=C(C2=CC1OCC(F)(F)F)CSC=1NC2=C(N1)C=CC=C2 | C20H16F3N3O2S
reactant | chloromethyl pivalate | 126.5 mg | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-{[6-methoxy-7-(2,2,2-trifluoroethoxy)isoquinolin-1-yl]methylthio}-1-pivaloyloxymethylbenzimidazole | Yield: 92.3% | COC=1C=C2C=CN=C(C2=CC1OCC(F)(F)F)CSC1=NC2=C(N1COC(C(C)(C)C)=O)C=CC=C2 | C26H26F3N3O4S
